US03971819
To a solution of 3-butylamino-4-phenoxy-5-sulphamyl-benzoic acid (1 g) in dry acetone (10 ml), triethylamine (0.278 g) was added. Methanesulphonyl chloride (0.315 g) in dry acetone (5 ml) was added to the reaction mixture, while stirring. The agitation was continued for 1.5 hours at 20°C. The resulting solution of the mixed anhydride was added dropwise to aqueous ammonia (30 ml containing 7 g of ammonia), while stirring. The excess of ammonia and acetone were removed by evaporation under reduced pressure. The pH of the reaction mixture was adjusted to 7.5 by means of 4N hydrochloric acid, and the precipitated 3-butylamino-4-phenoxy-5-sulphamyl-benzamide was isolated by filtration and recrystallized several times from aqueous ethanol. After drying in vacuo at 115°C, the compound was obtained with a melting point of 223°-224°C.

reactant | 3-butylamino-4-phenoxy-5-sulphamyl-benzoic acid | 1 g | C(CCC)NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H20N2O5S
reactant | triethylamine | 0.278 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | 0.315 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia | 30 ml, 7 g | N | H3N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-butylamino-4-phenoxy-5-sulphamyl-benzamide | C(CCC)NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H21N3O4S
